US04665074
A solution of magnesium dimethyl malonate is prepared from 4.1 g of magnesium turnings in 25 ml of absolute ethanol and 19.9 ml of dimethyl malonate and 1 ml of carbon tetrachloride. 37.9 g of 4-trifluoromethoxybenzoyl chloride in 85 ml of absolute ether (diethylether) are added dropwise to this solution (while cooling in ice); the cooling bath is then removed, and the reaction mixture is stirred at 20° overnight. Thereafter, while cooling in ice, 25 ml of 25% strength sulfuric acid are added dropwise, the ether layer is removed, and the aqueous phase is extracted twice more with ether. The combined ether extracts are washed with water to neutrality, dried over sodium sulfate and evaporated. The remaining yellow oil is boiled in 300 ml of 6N hydrochloric acid under reflux for 12 hours. After cooling, the oil is removed, the aqueous phase is extracted 6 times with 100 ml of dichloromethane each time. The oil and the dichloromethane extracts are combined, dried over sodium sulfate and evaporated. The remaining oil is distilled at 1.6 kPa. 26.85 g (77.9% of theory) of the title compound (boiling point 94° to 96°). are obtained.

reactant | magnesium | 4.1 g | [Mg] | Mg
reactant | 4-trifluoromethoxybenzoyl chloride | 37.9 g | FC(OC1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O2
reactant | dimethyl malonate | 19.9 ml | C(CC(=O)OC)(=O)OC | C5H8O4
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | carbon tetrachloride | 1 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | ether | 85 ml | CCOCC | C4H10O
product | magnesium dimethyl malonate | C(CC(=O)OC)(=O)OC.[Mg] | InChI=1S/C5H8O4.Mg/c1-8-4(6)3-5(7)9-2;/h3H2,1-2H3;
